US07018559B2
A. Synthesis of 3-(5,5-dimethyl-2-oxo-1,3,2-dioxaphosphorinanoxymethyl)-cyclohexene.
A 100 mL round bottom flask equipped with a stirrer bar was charged with 15.04 g (0.134 mol) 3-cyclohexene-1-methanol, 22.52 g (0.122 mol) of 2-chloro-5,5-dimethyl-1,3,2-dioxaphosphorinan-2-one, and 10.6 g (0.134 mol) of pyridine. After the above mixture was reacted at 80° C. for 3 hrs. The reaction mixture was added to chloroform (100 mL), and then washed with chloroform (2×100 mL), dried with sodium sulfate. The solvent was evaporated and the residue distilled to give pure product.

reactant | 3-cyclohexene-1-methanol | 0.134 mol, 15.04 g | C1(CC=CCC1)CO | C7H12O
reactant | 2-chloro-5,5-dimethyl-1,3,2-dioxaphosphorinan-2-one | 0.122 mol, 22.52 g | ClP1(OCC(CO1)(C)C)=O | C5H10ClO3P
reactant | pyridine | 0.134 mol, 10.6 g | N1=CC=CC=C1 | C5H5N
solvent | chloroform | 100 mL | C(Cl)(Cl)Cl | CHCl3
product | 3-(5,5-dimethyl-2-oxo-1,3,2-dioxaphosphorinanoxymethyl)-cyclohexene | CC1(COP(OC1)(OCC1C=CCCC1)=O)C | C12H21O4P
